US06063810
26.5 g (188 mmol) of ethyl 2-(2-bromophenoxy)pentanoate, 50 ml of methanol, 21.1 g (528 mmol) of sodium hydroxide pellets and 3 ml of water are placed in 250 ml three-necked flask equipped with a reflux condenser. The mixture is heated at reflux for 3 hours and then cooled to room temperature and concentrated. 200 ml of water are added and extraction is carried out with 150 ml of petroleum ether. The aqueous phase is subsequently acidified by the addition of a hydrochloric acid solution and then extracted with 3×200 ml of chloroform. The combined organic phases are dried over magnesium sulphate, filtered and concentrated under vacuum to give 23.8 g (99% yield) of 2-(2-bromophenoxy)pentanoic acid--M.p.=63° C.

reactant | ethyl 2-(2-bromophenoxy)pentanoate | 188 mmol, 26.5 g | BrC1=C(OC(C(=O)OCC)CCC)C=CC=C1 | C13H17BrO3
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydroxide | 528 mmol, 21.1 g | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
product | 2-(2-bromophenoxy)pentanoic acid | 23.8 g, 99% yield | BrC1=C(OC(C(=O)O)CCC)C=CC=C1 | C11H13BrO3
